US06949573B2
Exo-N-(8-Benzyl-8-aza-bicyclo[3.2.1]oct-3-yl-2-chloro-5-fluoro-nicotinamide (7.9 g, 21 mmol) (see Preparation 33), 4-fluorophenol (2.6 g, 23 mmol) and caesium carbonate (13.8 g, 42 mmol) were stirred in N,N-dimethylformamide (200 ml) at 70° C. under an atmosphere of nitrogen for 20 hours. The reaction mixture was then partitioned between ethyl acetate (300 ml) and water (300 ml) and the organic layer separated. The organic phase was then washed with a saturated aqueous solution of sodium chloride (3-fold 200 ml), concentrated in vacuo and the residue purified by flash column chromatography on silica gel eluting with a solvent gradient of 20:80 changing to 100:0, by volume, ethyl acetate:pentane. The product was triturated with pentane (30 ml) giving exo-N-(8-benzyl-8-aza-bicyclo[3.2.1]oct-3-yl-5-fluoro-2-(4-fluoro-phenoxy)-nicotinamide (6.3 g) as a white solid.

reactant | 8-Benzyl-8-aza-bicyclo[3.2.1]oct-3-yl-2-chloro-5-fluoro-nicotinamide | 21 mmol, 7.9 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)C2=NC(=C(C(=O)N)C=C2F)Cl | C20H21ClFN3O
reactant | 4-fluorophenol | 23 mmol, 2.6 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | caesium carbonate | 42 mmol, 13.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 8-benzyl-8-aza-bicyclo[3.2.1]oct-3-yl-5-fluoro-2-(4-fluoro-phenoxy)-nicotinamide | 6.3 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)C2=NC(=C(C(=O)N)C=C2F)OC2=CC=C(C=C2)F | C26H25F2N3O2
